US05401734
To a suspension of 7β-[2-(2-formamidothiazol-4-yl)- 2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate (syn isomer) (0.70 g) in methanol (35 ml) was added conc. hydrochloric acid (0.53 ml). After being stirred at ambient temperature, the reaction mixture was diluted with water (50 ml) and methanol was evaporated under reduced pressure. The resulting aqueous solution was adjusted to pH 1.0 and subjected to column chromatography on Diaion HP-20 (50 ml). The column was washed with water and the elution was carried out with 40% aqueous isopropanol. The fractions containing the object compound was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl- 3-cephem-4-carboxylate (syn isomer) (0.53 g).

reactant | 7β-[2-(2-formamidothiazol-4-yl)- 2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate | 0.70 g | C(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C | C28H33N7O10S2
reactant | hydrochloric acid | 0.53 ml | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl- 3-cephem-4-carboxylate | 0.53 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C | C27H33N7O9S2
